US07585886B2
A 6 ml portion of concentrated sulfuric acid was added at room temperature to a 6 ml ethanol solution of 1.11 g of 2-morpholin-4-yl-4-nitrobenzonitrile, and heated under reflux for 8Hours. After spontaneous cooling, the reaction solution was poured onto ice and neutralized with saturated sodium bicarbonate aqueous solution. The organic layer was extracted with chloroform, and the organic layer was dried with anhydrous sodium sulfate. By evaporating the solvent under a reduced pressure, 1.16 g of ethyl 2-morpholin-4-yl-4-nitrobenzoate was obtained as a dark-red oily substance.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-morpholin-4-yl-4-nitrobenzonitrile | 1.11 g | N1(CCOCC1)C1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C11H11N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl 2-morpholin-4-yl-4-nitrobenzoate | 1.16 g | N1(CCOCC1)C1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C13H16N2O5
